US06124331
Dioxane containing HCl was added (10 ml of 4N HCl solution) to the solution of tert-Butyl N-[4-(isopropylformylamino)cyclohexyl]methylcarbamate dissolved in 10 ml Et2O, stirred at room temperature for 2 hours, and the solvent removed to obtain N-[4-(aminomethyl)cyclohexyl]-N-isopropylformamide: 100% yield, 199 (ESMS, MH+); 1H NMR (CD3OD) δ 8.16 (s, 1H), 4.16 & 3.57 (two m, 1H), 3.70 (m, 1H), 2.79 (m, 2H), 1.36 (m, 6H), 1.91-1.06 (m, 9H).

reactant | Dioxane | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
reactant | HCl | 4N, 10 ml | Cl | ClH
reactant | tert-Butyl N-[4-(isopropylformylamino)cyclohexyl]methylcarbamate | C(C)(C)C(=O)NC1CCC(CC1)CNC(OC(C)(C)C)=O | C16H30N2O3
reactant | Et2O | 10 ml | CCOCC | C4H10O
product | N-[4-(aminomethyl)cyclohexyl]-N-isopropylformamide | 100% yield | NCC1CCC(CC1)N(C=O)C(C)C | C11H22N2O
